US06333324B1
To a solution of ethyl 1,4,5,6-tetrahydropyrazine-2-carboxylate (61.5 g) in acetonitrile (MeCN, 500 ml) was added a solution of ditert-butyl dicarbonate (85.9 g) in MeCN (100 ml) under cooling on an ice bath. After stirring for 5 hours at room temperature, the solution was concentrated in vacuo. The residue was dissolved in AcOEt (1500 ml). The solution was washed with 5% hydrogen chloride (HCl) solution, 1M NaHCO3 solution and brine, dried over MgSO4 and concentrated in vacuo. The residue was crystallized from AcOEt (100 ml) and diethyl ether (Et2O, 600 ml) to give 77.7 g of ethyl 1-tert-butoxycarbonyl-1,4,5,6-tetrahydropyrazine-2-carboxylate.

reactant | ethyl 1,4,5,6-tetrahydropyrazine-2-carboxylate | 61.5 g | N1C(=CNCC1)C(=O)OCC | C7H12N2O2
reactant | ditert-butyl dicarbonate | 85.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | MeCN | 100 ml | CC#N | C2H3N
product | ethyl 1-tert-butoxycarbonyl-1,4,5,6-tetrahydropyrazine-2-carboxylate | 77.7 g | C(C)(C)(C)OC(=O)N1C(=CNCC1)C(=O)OCC | C12H20N2O4
